US08614206B2
To a solution of (S)-tert-butyl (4-((5-(4-aminoazepan-1-yl)-1-methyl-1H-pyrazol-4-yl)carbamoyl)-2-(2,6-difluorophenyl)thiazol-5-yl)carbamate (103 mg, 0.19 mmol) in acetonitrile (2 mL) and THF (2 mL) was added 3-(iodomethyl)-3-methyl-oxetane (78 mg, 0.38 mmol) and potassium carbonate (130 mg, 0.94 mmol). The mixture was heated at 65° C. for 3 days. After cooling to room temperature, water (20 mL) was added and the mixture extracted with DCM (50 mL×3). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0 to 15% methanol/DCM) gave tert-butyl N-[2-(2,6-difluorophenyl)-4-[[1-methyl-5-[(4R)-4-[(3-methyloxetan-3-yl)methylamino]azepan-1-yl]pyrazol-4-yl]carbamoyl]thiazol-5-yl]carbamate (130 mg, quantitative). This solid (130 mg, 0.21 mmol) was stirred with TFA (3 mL) and DCM (3 mL) at room temperature for 1 h. The solvent was removed under reduced pressure, basified with saturated NaHCO3, and extracted with ethyl acetate (3×). The combined organic layers were dried over MgSO4 and the solvent removed under reduced pressure and the residue purified by preparative HPLC to afford 334 (55.7 mg, 51%). 1H NMR (400 MHz, DMSO) δ 8.66 (s, 1H), 8.18 (s, 1H), 7.56 (s, 1H), 7.55-7.41 (m, 3H), 7.26 (t, J=8.7 Hz, 2H), 4.28 (d, J=5.6 Hz, 2H), 4.12 (d, J=5.5 Hz, 2H), 3.65 (s, 3H), 3.23-3.00 (m, 4H), 2.83-2.70 (m, 1H), 2.70-2.58 (m, 2H), 1.99-1.77 (m, 3H), 1.68-1.51 (m, 3H), 1.17 (s, 3H). LCMS (ES+) m/z 532 (M+1)

reactant | (S)-tert-butyl (4-((5-(4-aminoazepan-1-yl)-1-methyl-1H-pyrazol-4-yl)carbamoyl)-2-(2,6-difluorophenyl)thiazol-5-yl)carbamate | 0.19 mmol, 103 mg | N[C@@H]1CCN(CCC1)C1=C(C=NN1C)NC(=O)C=1N=C(SC1NC(OC(C)(C)C)=O)C1=C(C=CC=C1F)F | C25H31F2N7O3S
reactant | 3-(iodomethyl)-3-methyl-oxetane | 0.38 mmol, 78 mg | ICC1(COC1)C | C5H9IO
reactant | potassium carbonate | 0.94 mmol, 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 mL | O | H2O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl N-[2-(2,6-difluorophenyl)-4-[[1-methyl-5-[(4R)-4-[(3-methyloxetan-3-yl)methylamino]azepan-1-yl]pyrazol-4-yl]carbamoyl]thiazol-5-yl]carbamate | 130 mg | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1N1CC[C@@H](CCC1)NCC1(COC1)C)C)=O)NC(OC(C)(C)C)=O | C30H39F2N7O4S
